US05298652
A mixture of 6.6 g (9.9 mmol) of N-(2-ethoxy-2-oxoethyl)-N-[5-(octadecyloxy)-2-(phenylmethoxy)benzoyl]glycine ethyl ester and 25 ml (50 mmol) of 2N NaOH in 300 ml of methanol was stirred at reflux for 2 hours. The solvent was removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated to an oil which was treated with water and cooled in the refrigerator. The resultant solid was filtered, triturated with ether-hexane and filtered again to give 5.8 g (96% yield, mp 81°-83°) of N-(carboxymethyl)-N-[5-(octadecyloxy)-2-(phenylmethoxy)benzoyl]glycine.

reactant | N-(2-ethoxy-2-oxoethyl)-N-[5-(octadecyloxy)-2-(phenylmethoxy)benzoyl]glycine ethyl ester | 9.9 mmol, 6.6 g | C(C)OC(CN(C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O)CC(=O)OCC)=O | C40H61NO7
reactant | NaOH | 50 mmol, 2N, 25 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | N-(carboxymethyl)-N-[5-(octadecyloxy)-2-(phenylmethoxy)benzoyl]glycine | 5.8 g, 96% yield | C(=O)(O)CN(CC(=O)O)C(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O | C36H53NO7
